US07132425B2
A mixture of 2-amino-5-bromopyrazine (300 mg, 1.724 mmol), dichlorobis(triphenylphosphine)palladium(II) (175 mg, 0.249 mmol), 5-cyanothiophene-2-boronic acid acid (540 mg, 3.53 mmol) and a saturated aqueous sodium carbonate solution (2 mL) in ethylene glycol dimethyl ether (5 mL) and ethanol (5 mL) was heated under reflux overnight. The reaction mixture was cooled, diluted with ethyl acetate, and washed with water and a saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40S, Silica, 2/3 to 1/9 hexanes/ethyl acetate) afforded 5-(5-amino-pyrazin-2-yl)-thiophene-2-carbonitrile (49.1 mg, 14.1%) as a yellow solid: LRMS for C9H6N4S (M+H)+ at m/z=203.

reactant | 2-amino-5-bromopyrazine | 1.724 mmol, 300 mg | NC1=NC=C(N=C1)Br | C4H4BrN3
reactant | 5-cyanothiophene-2-boronic acid | 3.53 mmol, 540 mg | C(#N)C1=CC=C(S1)B(O)O | C5H4BNO2S
reactant | sodium carbonate | 2 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 5 mL | COCCOC | C4H10O2
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.249 mmol, 175 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-(5-amino-pyrazin-2-yl)-thiophene-2-carbonitrile | 49.1 mg, 14.1% | NC=1N=CC(=NC1)C1=CC=C(S1)C#N | C9H6N4S
